US06465687B1
3-Bromo-5-methyl-4-hydroxyphenylacetic acid methyl ester (0.2 g) was coupled with bis (3-isopropyl-4-methoxyphenyl)iodonium tetrafluoroborate (0.7 g) by the procedure described in Example 1(a) to afford 3-bromo-5-methyl-4-(4-methoxy-3-isopropylphenoxy) phenylacetic acid methyl ester (0.15 g, 48%).

reactant | 3-Bromo-5-methyl-4-hydroxyphenylacetic acid methyl ester | 0.2 g | COC(CC1=CC(=C(C(=C1)C)O)Br)=O | C10H11BrO3
reactant | bis (3-isopropyl-4-methoxyphenyl)iodonium tetrafluoroborate | 0.7 g | F[B-](F)(F)F.C(C)(C)C=1C=C(C=CC1OC)[I+]C1=CC(=C(C=C1)OC)C(C)C
product | 3-bromo-5-methyl-4-(4-methoxy-3-isopropylphenoxy) phenylacetic acid methyl ester | 0.15 g, 48% | COC(CC1=CC(=C(C(=C1)C)OC1=CC(=C(C=C1)OC)C(C)C)Br)=O | C20H23BrO4
